US07399778B2
F. 5-Chloro-N-{2-ethyl-1-[1-(4-fluorobenzyl)-1H-1,2,4-triazol-5-yl]butyl}thiophene-2-sulfonamide
To a stirred solution of the {2-ethyl-1-[1-(4-fluorobenzyl)-1H-1,2,4-triazol-5-yl]butyl}amine (0.133 g, 0.481 mmol) in CH2Cl2 (10 mL) was added Et3N (0.10 mL, 0.72 mmol) followed by 5-chlorothiophene-2-sulfonyl chloride (0.115 g, 0.529 mmol). The reaction mixture was stirred for 18 h, concentrated in vacuo, partitioned between 0.1N HCl and EtOAc. The organic extracts were dried (MgSO4), filtered and concentrated in vacuo. Column chromatography (SiO2, EtOAc/hexane, 3:7) provided pure material as a yellow solid in 60% yield.

reactant | {2-ethyl-1-[1-(4-fluorobenzyl)-1H-1,2,4-triazol-5-yl]butyl}amine | 0.481 mmol, 0.133 g | C(C)C(C(C1=NC=NN1CC1=CC=C(C=C1)F)N)CC | C15H21FN4
reactant | Et3N | 0.72 mmol, 0.10 mL | CCN(CC)CC | C6H15N
reactant | 5-chlorothiophene-2-sulfonyl chloride | 0.529 mmol, 0.115 g | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-Chloro-N-{2-ethyl-1-[1-(4-fluorobenzyl)-1H-1,2,4-triazol-5-yl]butyl}thiophene-2-sulfonamide | 60% yield | ClC1=CC=C(S1)S(=O)(=O)NC(C(CC)CC)C1=NC=NN1CC1=CC=C(C=C1)F | C19H22ClFN4O2S2
